US04064138
L-histidine monofluorophosphate was prepared by combining 31 gm. of free-base L-histidine with 20 gm. of monofluorophosphoric acid in about 75 ml. of water. A clear syrup resulted. The syrup was poured into 750 ml. of a methanol-ethanol mixture. The precipitate (L-histidine monofluorophosphate) was collected and vacuum dried in a desiccator.

reactant | L-histidine | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | monofluorophosphoric acid | OP(=O)(O)F | FH2O3P
reactant | water | O | H2O
solvent | methanol ethanol | CO.C(C)O
product | L-histidine monofluorophosphate | P(=O)(O)(O)F.N[C@@H](CC1=CNC=N1)C(=O)O | InChI=1S/C6H9N3O2.FH2O3P/c7-5(6(10)11)1-4-2-8-3-9-4;1-5(2,3)4/h2-3,5H,1,7H2,(H,8,9)(H,10,11);(H2,2,3,4)/t5-;/m0./s1
